US08669234B2
A suspension of (tert-butoxycarbonyl-carboxymethyl-amino)-acetic acid (5 g, 21.4 mmol) and DCC (4.85 g, 23.6 mmol) in dichloromethane was stirred for 16 hours. The mixture was filtered and the solvent was removed from the filtrate to provide 2,6-dioxo-morpholine-4-carboxylic acid tert-butyl ester (4.86 g, 21.0 mmol, 99%).

reactant | (tert-butoxycarbonyl-carboxymethyl-amino)-acetic acid | 21.4 mmol, 5 g | C(C)(C)(C)OC(=O)N(CC(=O)O)CC(=O)O | C9H15NO6
reactant | DCC | 23.6 mmol, 4.85 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,6-dioxo-morpholine-4-carboxylic acid tert-butyl ester | 21.0 mmol, 4.86 g, 99% | C(C)(C)(C)OC(=O)N1CC(OC(C1)=O)=O | C9H13NO5
